US20010053788A1
Part A: A stirred solution of 3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole (5.00 gram, 19.5 mmol) and N-(tert-butoxycarbonyl)aziridine (2.00 gram, 14.0 mmol) in toluene (100 ml) was heated at reflux temperature for 16 hours. After concentration in vacuo the residue was purified by flash chromatography (petroleum ether/diethyl ether=3/1 (v/v)), followed by petroleum ether/diethyl ether=1/1 (v/v)). After concentration in vacuo the remaining oily residue was crystallised from diisopropyl ether to afford 1-[2-((tert-butoxycarbonyl)amino)ethyl]-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole (1.91 gram, 34%). Repeated crystallisations from the mother liquor afforded an additional amount of crystalline 1-[2-((tert-butoxycarbonyl)amino)ethyl]-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole (1.19 gram).

reactant | 3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole | 19.5 mmol, 5.00 gram | ClC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1 | C15H13ClN2
reactant | N-(tert-butoxycarbonyl)aziridine | 14.0 mmol, 2.00 gram | C(C)(C)(C)OC(=O)N1CC1 | C7H13NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-((tert-butoxycarbonyl)amino)ethyl]-3-(4-chlorophenyl)-4,5-dihydro-4-phenyl-1H-pyrazole | 1.91 gram, 34% | C(C)(C)(C)OC(=O)NCCN1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H26ClN3O2
